Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],1.55878903629
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[O:10][H:11].[H:6],1.57313941186
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3](#[C:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([C:3](=[C:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.63207331177
[C:14]([H:15])([H:16])[H:17].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.46136348926
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],1.85818906293
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:8],1.57943473145
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-0.35307230758
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:11]([H:12])([H:13])[H:14],1.88711967542
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:2](#[C:5][O:8])[H:9].[O:1]([C:3]([H:4])[H:7])[H:6],1.1563119890200002
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:4][H:3],7.579580817010001
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[H:7]>>[C:5](=[O:6])[H:7].[O:1][C:2]#[C:3][H:4],4.306772061
[C:1].[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-6.72588068597
[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9]>>[C:4]([H:5])([O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3],5.15544913519
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.26306953401
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10],-3.08279056858
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.93323160909
[C:6]([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.91752503251
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[O:4],1.34203354483
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]=[C:9]([H:10])[H:11].[H:8],4.90502836497
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],5.098895528530001
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.03577235009
[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.29624165504
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.70039899
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.7178727038
[C:1]#[C:2][C:3]([H:4])([H:5])[C:11]([H:8])[H:12].[C:6]([H:7])#[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.4644221761899998
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10][H:11],5.11309803774
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6](\[H:7])(=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],1.1507333469499998
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.19120190125
